US06784180B2
Preparation of (2S)-(−)-1-(4-Benzo[b]thiophenoxy)-3-(4-(6-fluoronaphth-2-yl)Piperidin-1-yl)-2-propanol.
A solution 4-(6-fluoronaphth-2-yl)piperidine (0.069 g, 0.301 mmol) and (S)-(+)-4-(oxiranylmethoxy)benzo[b]thiophene (0.062 g, 0.301 mmol) in methanol (3 mL) was heated at reflux for 18 hours and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/5% methanol in dichloromethane gradient elution) to give the title compound as a white amorphous solid (0.066 g, 50%). FDMS m/e 436 (M++1). C26H26FNO2S.

reactant | 4-(6-fluoronaphth-2-yl)piperidine | 0.301 mmol, 0.069 g | FC=1C=C2C=CC(=CC2=CC1)C1CCNCC1 | C15H16FN
reactant | (S)-(+)-4-(oxiranylmethoxy)benzo[b]thiophene | 0.301 mmol, 0.062 g | O1[C@@H](C1)COC1=CC=CC=2SC=CC21 | C11H10O2S
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-(−)-1-(4-Benzo[b]thiophenoxy)-3-(4-(6-fluoronaphth-2-yl)Piperidin-1-yl)-2-propanol | 0.066 g, 50% | S1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=CC1=CC=C(C=C1C=C2)F)O | C26H26FNO2S
